US09255110B2
A mixture of N-(4-ethyl-3-nitro-phenyl)-acetamide (1.0 g) and concentrated hydrochloric acid (5 mL) was heated at reflux for 4 hours. The reaction mixture was then cooled, basified by addition of sodium hydroxide and extracted twice with diethyl ether. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford 0.601 g of 4-ethyl-3-nitro-phenylamine without further purifications. MS=167 [M+H]+.

reactant | N-(4-ethyl-3-nitro-phenyl)-acetamide | 1.0 g | C(C)C1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C10H12N2O3
reactant | hydrochloric acid | 5 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-ethyl-3-nitro-phenylamine | 0.601 g | C(C)C1=C(C=C(C=C1)N)[N+](=O)[O-] | C8H10N2O2
